US08476434B2
To a solution of 4-methyl-N3-(3-pyrimidin-4-yl-pyridin-2-yl)-benzene-1,3-diamine (30 mg, 0.11 mmol) in toluene (2.0 mL) was added phenyl isocyanate (0.012 mL, 0.11 mmol). The mixture was stirred overnight at RT. The resulting solid was filtered, washed with toluene and dried to yield N-(4-methyl-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)-N′-phenylurea. MS m/z=397 [M+1]+. Calc'd for C23H20N6O: 396.46.

reactant | 4-methyl-N3-(3-pyrimidin-4-yl-pyridin-2-yl)-benzene-1,3-diamine | 0.11 mmol, 30 mg | CC1=C(C=C(C=C1)N)NC1=NC=CC=C1C1=NC=NC=C1 | C16H15N5
reactant | phenyl isocyanate | 0.11 mmol, 0.012 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-methyl-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)-N′-phenylurea | CC1=C(C=C(C=C1)NC(=O)NC1=CC=CC=C1)NC1=NC=CC=C1C1=NC=NC=C1 | C23H20N6O
